US05902803
2-Bromo-4-cyano-1-indanone can be obtained in the following way: a solution of 6.9 g of 4-cyano-1-indanone and 95 ml of chloroform is cooled to 5° C. A solution of 7.04 g of bromine and 20 ml of chloroform is then added dropwise over two hours at a temperature of between 0 and 5° C. After having left the reaction mixture stirring for one hour, the temperature of introduction being retained, the solution is allowed to return to room temperature and stirring is continued overnight. The reaction mixture is then concentrated to dryness under reduced pressure (15 mm Hg; 2 kPa) at 40° C. The residue thus obtained is purified by flash chromatography on a silica column, under a nitrogen stream at medium pressure (0.5 bar), with an ethyl ether/cyclohexane (20/80 by volume) mixture as eluent. 3.43 g of 2-bromo-4-cyano-1-indanone are thus obtained, which product melts at 124° C.

reactant | 4-cyano-1-indanone | 6.9 g | C(#N)C1=C2CCC(C2=CC=C1)=O | C10H7NO
reactant | bromine | 7.04 g | BrBr | Br2
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 95 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-bromo-4-cyano-1-indanone | 3.43 g | BrC1C(C2=CC=CC(=C2C1)C#N)=O | C10H6BrNO
